US07199239B2
Intermediate 15: Ethyl [4-(bromomethyl)-2-methylphenoxy]acetate
To a solution of ethyl [4-(hydroxymethyl)-2-methylphenoxy]acetate (4.27 g, 19 mmol) in dry CH2Cl2 (150 mL) under nitrogen at 5° C., was added tetrabromomethane (6.91 g, 20.9 mmol) then triphenylphosphine (5.71 g, 21.8 mmol) portion wise over 0.5 h. The resultant mixture was then stirred for 16 h at room temperature. The solvents were removed in vacuo. Purification by Biotage™ chromatography (silica, 2×90 g) eluting with 30:1 cyclohexane:EtOAc afforded the title compound as a yellow solid (2.95 g).

reactant | ethyl [4-(hydroxymethyl)-2-methylphenoxy]acetate | 19 mmol, 4.27 g | OCC1=CC(=C(OCC(=O)OCC)C=C1)C | C12H16O4
reactant | tetrabromomethane | 20.9 mmol, 6.91 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 21.8 mmol, 5.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | Ethyl [4-(bromomethyl)-2-methylphenoxy]acetate | 2.95 g | BrCC1=CC(=C(OCC(=O)OCC)C=C1)C | C12H15BrO3
